US04687727
The poly(allyl methacrylate/methacrylic acid) was synthesized by the following process. In a 3 l four-necked flask equipped with a stirring bar and a stirring blade, a reflux condenser, a dropping funnel and a thermometer, 1.68 l of 1,2-dichloroethane was placed as a reaction solvent and heated to 70° C. in a nitrogen atmosphere. A solution prepared by dissolving 100.8 g of allyl methacrylate 7.6 g of methacrylic acid and 1.68 g of the polymerization initiator: 2,2'-azobis(2,4-dimethylvaleronitrile) in 0.44 l of 1,2-dichloroethane was placed in a dropping funnel and the mixed solution was added dropwise to the flask with stirring for over 2 hours.

reactant | allyl methacrylate | 100.8 g | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | 2,2'-azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | 1,2-dichloroethane | 0.44 l | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 1.68 l | ClCCCl | C2H4Cl2
product | allyl methacrylate methacrylic acid | C(C(=C)C)(=O)OCC=C.C(C(=C)C)(=O)O | InChI=1S/C7H10O2.C4H6O2/c1-4-5-9-7(8)6(2)3;1-3(2)4(5)6/h4H,1-2,5H2,3H3;1H2,2H3,(H,5,6)
